US05004758
Preparation of (20 S) 9-Dimethylaminomethyl-10-hydroxycamptothecin Free Base
A mixture of 10-hydroxycamptothecin (728 mg 2.0 mmol), prepared as described in Example 2, in glacial acetic (50 mL), ethanol (20 mL), 37% aqueous formaldehyde (3 mL) and 40% aqueous dimethylamine (3 mL) was stirred at room temperature for 20 h. The solvents were removed under reduced pressure; the residue was heated at 50° under high vacuum for 2 h and triturated with isopropanol (10 mL) to precipitate the title compound (561 mg, 64%) as a yellow solid. FAB mass spectrum: m/e 422 (MH+). 1H NMR (CDCl3 /CD3OD) δ1.0 (t, 3), 1.9 (m, 2), 2.5 (s, 6), 4.3 (s, 2), 5.2 (s, 2), 5.4 (q, 2), 7.6 (s, 1), 7.7 (q, 2), 8.5 (s, 1).

reactant | 10-hydroxycamptothecin | 2.0 mmol, 728 mg | CC[C@@]1(C2=C(COC1=O)C(=O)N3CC=4C=C5C=C(C=CC5=NC4C3=C2)O)O | C20H16N2O5
reactant | ethanol | 20 mL | C(C)O | C2H6O
reactant | formaldehyde | 3 mL | C=O | CH2O
reactant | dimethylamine | 3 mL | CNC | C2H7N
solvent | acetic | 50 mL | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
product | 9-Dimethylaminomethyl-10-hydroxycamptothecin | CC[C@@]1(C2=C(COC1=O)C(=O)N3CC4=C(C3=C2)N=C5C=CC(=C(C5=C4)CN(C)C)O)O | C23H23N3O5
